US07291641B2
(1R)-N-benzyl-1-(1-benzyl-4-tert-butyl-1H-imidazol-2-yl)-2-(1H-indol-3-yl)ethanamine
Triethylamine (0.83 ml; 0.006 mol) is added at 23° C. to a solution containing (1R)-1-(1-benzyl-4-tert-butyl-1H-imidazol-2-yl)-2-(1H-indol-3-yl)ethanamine (0.7 g; 0.002 mol; prepared under experimental conditions similar to those previously and using suitable starting reagents and reaction products) in 15 ml of acetonitrile. The mixture is stirred for one hour at 23° C. then benzyl chloride (0.23 ml; 0.002 mol) is added. Stirring is maintained for 16 hours. The reaction mixture is concentrated using a rotary evaporator and the oil obtained is taken up in ethyl acetate and water. The aqueous phase is extracted with ethyl acetate and washed with water then with a saturated solution of sodium chloride. The solvents are evaporated off under vacuum. After purification on a silica column (eluent: AE-heptane/7-3), a deep beige-coloured solid is obtained in the form of a paste (yield of 5%). Free base. Melting point: 60-62° C.

reactant | Triethylamine | 0.006 mol, 0.83 ml | C(C)N(CC)CC | C6H15N
reactant | (1R)-1-(1-benzyl-4-tert-butyl-1H-imidazol-2-yl)-2-(1H-indol-3-yl)ethanamine | C(C1=CC=CC=C1)N1C(=NC(=C1)C(C)(C)C)[C@@H](CC1=CNC2=CC=CC=C12)N | C24H28N4
reactant | benzyl chloride | 0.002 mol, 0.23 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (1R)-N-benzyl-1-(1-benzyl-4-tert-butyl-1H-imidazol-2-yl)-2-(1H-indol-3-yl)ethanamine | yield of 5% | C(C1=CC=CC=C1)N[C@H](CC1=CNC2=CC=CC=C12)C=1N(C=C(N1)C(C)(C)C)CC1=CC=CC=C1 | C31H34N4
